US07700641B2
C. Synthesis of methyl 2-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate
Following the procedure as described in PREPARATION 2C, and making non-critical variations to replace 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one with methyl 2-{[3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate, the title compound was obtained (100%) as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 9.32 (s, 1H), 7.94 (dd, 1H), 7.50-7.34 (m, 2H), 7.26 (d, 1H), 7.08 (t, 1H), 7.00-6.86 (m, 2H), 6.76 (s, 1H), 6.64 (d, 1H), 6.38 (s, 1H), 5.93-5.86 (m, 2H), 5.34-5.12 (m, 2H), 4.83 (s, 1H), 3.87 (s, 3H); MS (ES+) m/z 418.2 (M+1).

reactant | 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C20H19NO5
reactant | methyl 2-{[3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate | OC1(C(N(C2=CC=CC=C12)CC1=C(C(=O)OC)C=CC=C1)=O)C1=CC2=C(OCO2)C=C1O | C24H19NO7
product | methyl 2-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=CC=CC=C12)CC1=C(C(=O)OC)C=CC=C1)=O | C24H19NO6
